US07977352B2
Using the method described above for the synthesis of 4-(4-isopentylpiperazin-1-yl)aniline, treatment of 1-isopropyl-4-(4-nitrophenyl)piperazine (11.0 g, 40.1 mmol) with H2 and 10% Pd/C (1.0 g) at RT in EtOH (150 mL) for 24 h, followed by the addition of DCM (100 mL) to the reaction mixture and stirring for a further 3 h, provided crude 4-(4-isopropylpiperazin-1-yl)aniline (7.6 g, 86% recovery, 99% purity as determined by LC/MS analysis @ UV 254 nm detection). The crude product is used in the next step without further purification. LCMS-ESI (m/z): calcd for C13H21N3, 219; [M+H]+ found, 220.

reactant | 4-(4-isopentylpiperazin-1-yl)aniline | C(CC(C)C)N1CCN(CC1)C1=CC=C(N)C=C1 | C15H25N3
reactant | 1-isopropyl-4-(4-nitrophenyl)piperazine | 40.1 mmol, 11.0 g | C(C)(C)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H19N3O2
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 150 mL | CCO | C2H6O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 4-(4-isopropylpiperazin-1-yl)aniline | 7.6 g | C(C)(C)N1CCN(CC1)C1=CC=C(N)C=C1 | C13H21N3
